US08865732B2
A mixture of pyridin-4-ylboronic acid (17.0 mg, 0.14 mmol) and 5-(5-bromo-2-(4-(ethylsulfonyl)piperazin-1-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-4-yl)-3-methoxypyridin-2-amine (26.5 mg, 0.05 mmol) in DME (1.5 mL) and 2.0 M aqueous Na2CO3 (0.5 mL) was sparged with Ar for 2 min. Tetrakis(triphenylphosphine)palladium(0) (10.6 mg, 9.2 μmol) was added. The mixture was sparged with Ar for an additional 2 min and was irradiated in a sealed tube in a microwave reactor at 115° C. for 15 min. The reaction mixture was extracted with EtOAc (3×10 mL). The combined organic layers were washed with sat aqueous NaHCO3 (30 mL), brine (30 mL), dried over Na2SO4, filtered and concentrated in vacuo. The material purified by preparative TLC (SiO2, 0.25 mm, 95:5 DCM-MeOH) to afford 5-(2-(4-(ethylsulfonyl)piperazin-1-yl)-5-(pyridin-4-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-4-yl)-3-methoxypyridin-2-amine was isolated as colorless solid: LCMS (m/z): 574.3 (MH+), tR=0.68 min.

reactant | pyridin-4-ylboronic acid | 0.14 mmol, 17.0 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | 5-(5-bromo-2-(4-(ethylsulfonyl)piperazin-1-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-4-yl)-3-methoxypyridin-2-amine | 0.05 mmol, 26.5 mg | BrC1=C(N=C(N1COCC[Si](C)(C)C)N1CCN(CC1)S(=O)(=O)CC)C=1C=C(C(=NC1)N)OC | C21H35BrN6O4SSi
solvent | DME | 1.5 mL | COCCOC | C4H10O2
solvent | Na2CO3 | 2.0 M, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 9.2 μmol, 10.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-(4-(ethylsulfonyl)piperazin-1-yl)-5-(pyridin-4-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-4-yl)-3-methoxypyridin-2-amine | C(C)S(=O)(=O)N1CCN(CC1)C=1N(C(=C(N1)C=1C=C(C(=NC1)N)OC)C1=CC=NC=C1)COCC[Si](C)(C)C | C26H39N7O4SSi
